US09302998B2
STEP A: bromoethynyl-triisopropyl-silane
NBS (2.14 g, 12 mmol) and AgNO3 (170 mg, 1 mmol) were added to a solution of triisopropylsilylacetylene (2.24 ml, 10 mmol) in acetone (15 ml). The solution was stirred for 2 hours at RT. Pentane (20 ml) and H2O (20 ml) were added and the solution was stirred for 30 minutes. The organic phase was extracted with pentane (3×20 ml) and dried over Na2SO4. The solvent was removed under reduced pressure at RT and the residue was used in the next reaction without any purification.

reactant | NBS | 12 mmol, 2.14 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | triisopropylsilylacetylene | 10 mmol, 2.24 ml | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | Pentane | 20 ml | CCCCC | C5H12
reactant | H2O | 20 ml | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
catalyst | AgNO3 | 1 mmol, 170 mg | [N+](=O)([O-])[O-].[Ag+]
product | bromoethynyl-triisopropyl-silane | BrC#C[Si](C(C)C)(C(C)C)C(C)C | C11H21BrSi
